US08536179B2
To a stirred solution of 6-(hydroxymethyl)-2-methoxy-4-methylnicotinonitrile (1.50 g, 8.42 mmol), phthalimide (1.3 g, 8.84 mmol) and triphenylphosphine (2.3 g, 8.77 mmol) in Tetrahydrofuran (THF) (50 mL) at 0° C. in an ice bath was added dropwise DIAD (1.8 mL, 9.26 mmol). Within minutes a white suspension formed. Additional THF (˜50 mL) was added to allow stirring. The reaction was allowed to warm to RT and stirred for 3 h. LCMS showed that the reaction was complete. The reaction was evaporated to dryness under vacuum. The remaining solid was triturated with a small volume of EtOAc, filtered, washed with a small volume of EtOAc, then dried under vacuum to give the product 6-((1,3-dioxoisoindolin-2-yl)methyl)-2-methoxy-4-methylnicotinonitrile (2.12 g, 6.90 mmol, 82% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 8.00-7.92 (m, 2H), 7.92-7.87 (m, 2H), 7.15 (s, 1H), 4.86 (s, 2H), 3.74 (s, 3H), 2.43 (s, 3H). MS (ES)+m/e 308.2 [M+H]+.

reactant | 6-(hydroxymethyl)-2-methoxy-4-methylnicotinonitrile | 8.42 mmol, 1.50 g | OCC1=NC(=C(C#N)C(=C1)C)OC | C9H10N2O2
reactant | phthalimide | 8.84 mmol, 1.3 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 8.77 mmol, 2.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 9.26 mmol, 1.8 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | Tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | THF | ˜50 mL | O1CCCC1 | C4H8O
product | 6-((1,3-dioxoisoindolin-2-yl)methyl)-2-methoxy-4-methylnicotinonitrile | 6.90 mmol, 2.12 g, 82% yield | O=C1N(C(C2=CC=CC=C12)=O)CC1=NC(=C(C#N)C(=C1)C)OC | C17H13N3O3
